US09422252B2
4-(4-bromophenyl)-5-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one
A large microwave tube was filled in with 2-acetyl-N-(4-bromophenyl)hydrazinecarboxamide (1.8 g, 6.62 mmol) and 2M aqueous NaOH (9 mL, 18 mmol). The reaction mixture was heated under microwave irradiation for 20 min at 130° C. Water (ca 18 mL) was added and the pH was adjusted to 4 by dropwise addition of aqueous HCl, with stirring. The thick precipitate was collected by filtration, washed with small amounts of cold water and dried. A small amount (220 mg) was purified by analytical preparation leading to 195 mg of the title compound.

reactant | 2-acetyl-N-(4-bromophenyl)hydrazinecarboxamide | 6.62 mmol, 1.8 g | C(C)(=O)NNC(=O)NC1=CC=C(C=C1)Br | C9H10BrN3O2
reactant | NaOH | 18 mmol, 2M, 9 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | Water | ca 18 mL | O | H2O
product | 4-(4-bromophenyl)-5-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | BrC1=CC=C(C=C1)N1C(NN=C1C)=O | C9H8BrN3O
